US08372307B2
Preparation of 4-Propyl-cyclohexanecarboxylic acid 4-acryloyloxy-butyl ester 20
4-Propyl-cyclohexanecarboxylic acid (10.0 g, 58.0 mmol), 4-hydroxybutyl acrylate (8.0 g, 57.0 mmol) and a catalytic amount of para-toluene sulphonic acid are stirred under reflux in toluene (100 ml) in a flask equipped with Dean-Stark apparatus. The reaction is shown to be complete by GCMS after 1 hour. The solution is allowed to cool to room temperature, is washed with aqueous sodium carbonate and water, dried and evaporated to dryness. Purification is achieved by flash column chromatography using petrol as eluant. Evaporation of the appropriate fractions gives a colourless oil.

reactant | 4-Propyl-cyclohexanecarboxylic acid | 58.0 mmol, 10.0 g | C(CC)C1CCC(CC1)C(=O)O | C10H18O2
reactant | 4-hydroxybutyl acrylate | 57.0 mmol, 8.0 g | C(C=C)(=O)OCCCCO | C7H12O3
reactant | para-toluene sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Propyl-cyclohexanecarboxylic acid 4-acryloyloxy-butyl ester | C(C=C)(=O)OCCCCOC(=O)C1CCC(CC1)CCC | C17H28O4
